US08877782B2
N-Cyclopropyl-6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinamide
As described for example 89, 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.25 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted, using cylopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (90 mg, 54%) which was obtained as a white solid. MS: m/e=422.1 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.25 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C18H12F4N2O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | cylopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinamide | 90 mg, 54% | C1(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C20H15F4N3O3
